US05124331
3,4-Dihydro-3-(2-chlorophenyl)-6-chlorosulfonyl-2-methyl-4-oxothieno[2,3-d]pyrimidine
To 140 ml of chlorosulfonic acid was added little by little 54.8 g of 3,4-dihydro-3-(2-chlorophenyl)-2-methyl-4-oxothieno[2,3-d]pyrimidine. After the mixture was heated at 70°-75° C. on the oil bath and stirred for 1.5 hours, the reaction mixture was cooled and then poured onto 2 l of icewater carefully. The precipitated crystals were collected by suction-filtration to afford 65 g of the title compound, m.p. 172°-174° C.

reactant | 3,4-dihydro-3-(2-chlorophenyl)-2-methyl-4-oxothieno[2,3-d]pyrimidine | 54.8 g | ClC1=C(C=CC=C1)N1C(=NC2=C(C1=O)C=CS2)C | C13H9ClN2OS
reactant | chlorosulfonic acid | 140 ml | ClS(=O)(=O)O | ClHO3S
product | 3,4-Dihydro-3-(2-chlorophenyl)-6-chlorosulfonyl-2-methyl-4-oxothieno[2,3-d]pyrimidine | 65 g | ClC1=C(C=CC=C1)N1C(=NC2=C(C1=O)C=C(S2)S(=O)(=O)Cl)C | C13H8Cl2N2O3S2
